### PR TITLE
[Merged by Bors] - feat: behavior of `Cauchy` under operations on `UniformSpace`

### PR DESCRIPTION
**Pull request by ADedecker**
Some of the lemmas are cherry-picked from leanprover-community/mathlib#17975 and will be useful for the general Arzela-Ascoli theorem, but I also filled some API holes on the way.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 1]
```diff
@@ -54,6 +54,10 @@ theorem cauchy_iff {f : Filter α} : Cauchy f ↔ NeBot f ∧ ∀ s ∈ 𝓤 α,
     simp only [subset_def, Prod.forall, mem_prod_eq, and_imp, id, ball_mem_comm]
 #align cauchy_iff cauchy_iff
 
+lemma cauchy_of_neBot {l : Filter α} [hl : l.NeBot] :
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:57]: I'm not sure this is the right name. Is `cauchy_iff_le_of_neBot` too long? Or simply `cauchy_iff_le` since we often don't mention type class assumptions.

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 2]
```diff
@@ -92,13 +96,40 @@ theorem Filter.Tendsto.cauchy_map {l : Filter β} [NeBot l] {f : β → α} {a :
...
+lemma cauchy_iInf_uniformSpace {ι : Sort*} [Nonempty ι] {u : ι → UniformSpace β}
+    {l : Filter β} :
+    Cauchy (uniformSpace := ⨅ i, u i) l ↔ ∀ i, Cauchy (uniformSpace := u i) l := by
+  unfold Cauchy
+  rw [iInf_uniformity, le_iInf_iff, forall_and, forall_const]
+
+lemma cauchy_iInf_uniformSpace' {ι : Sort*} {u : ι → UniformSpace β}
+    {l : Filter β} [l.NeBot] :
+    Cauchy (uniformSpace := ⨅ i, u i) l ↔ ∀ i, Cauchy (uniformSpace := u i) l := by
+  simp_rw [cauchy_of_neBot (uniformSpace := _), iInf_uniformity, le_iInf_iff]
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:118]: What is this `(uniformSpace := _)` dark magic? Is it acting on elaboration order?

File: Mathlib/Topology/UniformSpace/Pi.lean [hunk 3]
```diff
@@ -51,18 +54,26 @@ theorem Pi.uniformContinuous_proj (i : ι) : UniformContinuous fun a : ∀ i : 
...
+lemma cauchy_pi_iff' {l : Filter (∀ i, α i)} [l.NeBot] :
+    Cauchy l ↔ ∀ i, Cauchy (map (eval i) l) := by
+  simp_rw [Pi.uniformSpace_eq, cauchy_iInf_uniformSpace', cauchy_comap_uniformSpace]
+
+lemma Cauchy.pi [Nonempty ι] {l : ∀ i, Filter (α i)} (hl : ∀ i, Cauchy (l i)) :
+    Cauchy (Filter.pi l) := by
+  have := fun i ↦ (hl i).1
+  simpa [cauchy_pi_iff]
+
+instance Pi.complete [∀ i, CompleteSpace (α i)] : CompleteSpace (∀ i, α i) where
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Pi.lean:70]: I'm still a bit sad that we don't prove this by abstract non-sense after constructing the completion functor, but I can live with that.

File: Mathlib/Topology/UniformSpace/Cauchy.lean [hunk 4]
```diff
@@ -20,7 +20,7 @@ open Filter TopologicalSpace Set Classical UniformSpace Function
 
 open Classical Uniformity Topology Filter
 
-variable {α : Type u} {β : Type v} [UniformSpace α]
+variable {α : Type u} {β : Type v} [uniformSpace : UniformSpace α]
```
Comment (PatrickMassot) [inline Mathlib/Topology/UniformSpace/Cauchy.lean:23]: Why did you add this name?

**Review by PatrickMassot — COMMENTED** [review]
bors d+

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:118]: Without it Lean tries to guess the uniform structure by typeclass inference, so it doesn't work.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:23]: To allow for `Cauchy (uniformSpace := u)` instead of `@Cauchy _ u`, as well as the `(uniformSpace := _)` dark magic (instead of `@`s and `_`s). I'm not sure the benefit is very clear, but I *think* it is more readable.

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:118]: See https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.E2.9C.94.20Type.20inference.20rather.20than.20typeclass.20resolution

File: Mathlib/Topology/UniformSpace/Cauchy.lean (hunk 4 above)
Comment (PatrickMassot) [reply Mathlib/Topology/UniformSpace/Cauchy.lean:23]: Oh I see. Maybe we should have a general strategy about this, but in this case it clearly helps since I was able to understand the proofs without realizing this trick was needed..
